US04895849
Synthesis of dl-5-chloro-6-ethyl-4-[α-ethyl-4-(3-pyridyloxy)benzyl]aminopyrimidine (Compound No. 72)
To a solution 2.2 g of dl-5-chloro-6-ethyl-4-(α-ethyl-4-hydroxybenzyl)aminopyrimidine sodium salt dissolved in 25 ml of dried pyridine were added 1.1 g of 3-bromopyridine and 1 g of cuprous chloride, and the mixture was refluxed under nitrogen atmosphere by heating and stirring for 8 hours. After completion of the reaction, the reaction product was poured into water and extracted with ethyl acetate. The extract was washed with diluted hydrochloric acid and water, dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The oily product obtained was isolated by chromatography (Wako Gel C-200, trade name, eluted with toluene:ethyl acetate=4:1) to give 0.8 g of the desired product as colorless oily liquid.

reactant | dl-5 chloro-6-ethyl-4-(α-ethyl-4-hydroxybenzyl)aminopyrimidine sodium salt | 2.2 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.[Na].ClC1=NC(=CC(=N1)NC(C1=CC=C(C=C1)O)CC)CC
reactant | 3-bromopyridine | 1.1 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | water | O | H2O
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | dl-5 chloro-6-ethyl-4-[α-ethyl-4-(3-pyridyloxy)benzyl]aminopyrimidine | 0.8 g | COC1=C(C=CC(=C1)CNCCCNCCCCNCCCN)O.ClC1=NC(=CC(=N1)NC(C1=CC=C(C=C1)OC=1C=NC=CC1)CC)CC | InChI=1S/C20H21ClN4O.C18H34N4O2/c1-3-15-12-19(25-20(21)23-15)24-18(4-2)14-7-9-16(10-8-14)26-17-6-5-11-22-13-17;1-24-18-14-16(6-7-17(18)23)15-22-13-5-12-21-10-3-2-9-20-11-4-8-19/h5-13,18H,3-4H2,1-2H3,(H,23,24,25);6-7,14,20-23H,2-5,8-13,15,19H2,1H3
